US04130661
A solution of 6.12 g. (0.025 moles) of 3,4-dichlorobenzoylacrylic acid and 4.0 ml. (3.94 g., 0.0325 moles) of 2,6-xylidine in 125 ml. of tetrahydrofuran is cooled to 5° C. and treated in succession with 3.0 ml. (5 g., 0.0328 moles) of POCl3 and 10 ml. (7.25 g., 0.072 moles) of triethylamine. The temperature rises to 25° C. and then falls to 20° C. After stirring for one hour, the suspension mixture is diluted with water and stripped of solvent. A semi-crystalline solid is obtained which is washed with water, then slurried with ethyl acetate. After filtering and washing with ether, 2.8 g. of 3-(3,4-dichlorobenzoyl)-2',6'-dimethylacrylanilide is obtained having a melting point of 213° C.-215° C.

reactant | 3,4-dichlorobenzoylacrylic acid | 0.025 moles | ClC=1C=C(C(=O)C(C(=O)O)=C)C=CC1Cl | C10H6Cl2O3
reactant | 2,6-xylidine | 0.0325 moles, 3.94 g | NC=1C(=CC=CC1C)C | C8H11N
reactant | POCl3 | 0.0328 moles, 5 g | O=P(Cl)(Cl)Cl | Cl3OP
reactant | triethylamine | 0.072 moles, 7.25 g | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 3-(3,4-dichlorobenzoyl)-2',6'-dimethylacrylanilide | ClC=1C=C(C(=O)C=CC(=O)NC2=C(C=CC=C2C)C)C=CC1Cl | C18H15Cl2NO2
